US04256759
The mixture of 1.1 g of 1-methyl-β-oxo-α-ethoxycarbonyl-2-pyrrolpropionitrile, 1.1 g of aniline and 60 ml of xylene, is refluxed for 41/2 hours. After standing and cooling to room temperature overnight, the solution is filtered, evaporated and the residue recrystallized from methanol, to yield the 1-methyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile melting at 173°-174°; it is identical with that obtained according to Example 1.

reactant | 1-methyl-β-oxo-α-ethoxycarbonyl-2-pyrrolpropionitrile | 1.1 g | CN1C(=CC=C1)C(C(C#N)C(=O)OCC)=O | C11H12N2O3
reactant | aniline | 1.1 g | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-methyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile | CN1C(=CC=C1)C(C(C#N)C(NC1=CC=CC=C1)=O)=O | C15H13N3O2
